US04046772
To a solution of 8-chloro-4-hydroxy-6-phenyl-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carboxamide (3/2 hydrate) in methanol is added a small amount of concentrated sulfuric acid, and the mixture is treated in the same manner as that of Example 3 to give 8-chloro-4-methoxy-6-phenyl-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carboxamide as crystals (1/3 hydrate). This product is identical with the product in Example 3 with respect to melting point and infrared absorption spectrum.

reactant | 8-chloro-4-hydroxy-6-phenyl-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carboxamide | ClC=1C=CC2=C(C(=NC(C=3N2N=C(N3)C(=O)N)O)C3=CC=CC=C3)C1 | C17H12ClN5O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | methanol | CO | CH4O
product | 8-chloro-4-methoxy-6-phenyl-4H-s-triazolo[1,5-a][1,4]benzodiazepine-2-carboxamide | ClC=1C=CC2=C(C(=NC(C=3N2N=C(N3)C(=O)N)OC)C3=CC=CC=C3)C1 | C18H14ClN5O2
